US09326516B2
1-(1-(4-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C6)
The title compound was prepared with 2-amino-2-(4-chlorophenyl)ethanol (Chen, L.; et al., US 20060004045) and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.300 g, 68%): mp 94-97° C.; 1H NMR (300 MHz, CD3OD) δ 9.12 (s, 1H), 8.11 (d, J=6.8 Hz, 2H), 8.01 (d, J=6.9 Hz, 2H), 7.61 (d, J=8.6 Hz, 2H), 7.49 (d, J=8.3 Hz, 3H), 7.32-7.38 (m, 3H), 5.59 (s, 1H), 3.84-3.87 (m, 2H) (NH, OH not observed); ESIMS m/z 534 ([M+H]+).

reactant | 2-amino-2-(4-chlorophenyl)ethanol | NC(CO)C1=CC=C(C=C1)Cl | C8H10ClNO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | 1-(1-(4-Chlorophenyl)-2-hydroxyethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | ClC1=CC=C(C=C1)C(CO)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H19ClF3N5O2S
